US08859774B2
Benzyl bromide (11.79 ml, 99 mmol) was added dropwise to a solution of sodium 1H-1,2,3-triazole-5-thiolate (12.2 g, 99 mmol) in ethanol (100 mL) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 20 minutes. The reaction mixture was diluted with ethyl acetate (100 mL) and washed with water (100 mL), brine (100 mL) and dried (sodium sulphate). The solvent was removed to give 4-(benzylthio)-1H-1,2,3-triazole (16.9 g) as a white solid. LCMS (Method F, ES-API): RT 1.66 min, m+H=191.9; 1H NMR (400 MHz, CDCl3): δ 9.72 (1H, v br s), 7.47 (1H, s), 7.30-7.21 (5H, m), 4.12 (2H, s).

reactant | Benzyl bromide | 99 mmol, 11.79 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium 1H-1,2,3-triazole-5-thiolate | 99 mmol, 12.2 g | N1N=NC=C1[S-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-(benzylthio)-1H-1,2,3-triazole | 16.9 g | C(C1=CC=CC=C1)SC=1N=NNC1 | C9H9N3S
